US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLX)
In a similar fashion to Compound LXXXVII, 4-Chloro-2-morpholin-4-yl-thiazole-5-carbaldehyde (65 mg, 0.28 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75 mg, 0.26 mmol), and Ammonium acetate (98 mg, 1.3 mmol) were reacted to produce 13.87 mg (11%) of the title compound. (300 MHz, DMSO-d6) 12.79 (s, 1H), 7.95 (s, 1H), 7.77 (s, 2H), 7.25 (s, 2H), 6.40-6.30 (m, 2H), 4.98 (t, J=17 Hz, 8.5 Hz, 1H), 3.72 (m, 4H), 3.27 (m, 4H), 3.48 (m, 4H), 2.87 (s, 1H), 2.75 (s, 1H), 2.57 (d, J=8 Hz, 1H), 2.19 (d, J=8 Hz, 1H), 1.36 (d, J=8 Hz, 1H). MS=507 (M+H), HPLC: 2.35 min. (G Method)

reactant | 4-Chloro-2-morpholin-4-yl-thiazole-5-carbaldehyde | 0.28 mmol, 65 mg | ClC=1N=C(SC1C=O)N1CCOCC1 | C8H9ClN2O2S
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.26 mmol, 75 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | Ammonium acetate | 1.3 mmol, 98 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 13.87 mg, 11% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(N=C(S2)N2CCOCC2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C21H21Cl2N7O2S
